US07846929B2
To a solution of 3-iodo-propane-1-sulfonic acid dimethylamide (600 mg) in DMF (10 mL) was added potassium phthalimide (590 mg) and the reaction heated at 100° C. for 16 h. After cooling to room temperature, the reaction was partitioned between dichloromethane (30 mL) and water (30 mL). The organic layer was washed with aqueous brine solution (3×30 mL), dried (MgSO4) and reduced in vacuo to give 3-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-propane-1-sulfonic acid dimethylamide as a white solid.

reactant | 3-iodo-propane-1-sulfonic acid dimethylamide | 600 mg | CN(S(=O)(=O)CCCI)C | C5H12INO2S
reactant | potassium phthalimide | 590 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-propane-1-sulfonic acid dimethylamide | CN(S(=O)(=O)CCCN1C(C2=CC=CC=C2C1=O)=O)C | C13H16N2O4S
